US09353066B2
Isopropylmagnesium chloride-lithium chloride complex (8.35 mL, 10.9 mmol) was added to a cooled solution of 1-bromo-4-iodobenzene (3.07 g, 10.9 mmol) in THF (8 mL) and the resultant solution was stirred for 1 hour at 0° C. Methyl trans-4-acetylcyclohexanecarboxylate (1.00 g, 5.43 mmol) in THF (2 mL) was added to the reaction mixture, stirred for 1 hour at 0° C. and saturated aqueous ammonium chloride was added. The reaction mixture was extracted with ethyl acetate (2×), and then the combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified via silica gel column chromatography (ethyl acetate/hexanes) gave methyl trans-4-[1-(4-bromophenyl)-1-hydroxyethyl]cyclohexanecarboxylate as a colorless oil. MS ESI calcd. for C16H22BrO3[M+H]+341 and 343. found 341 and 343. 1H NMR (500 MHz, CDCl3) δ 7.44 (d, J=8.5 Hz, 2H), 7.26 (d, J=8.4 Hz, 2H), 3.63 (s, 3H), 2.16 (tt, J=12.3 Hz, 3.6 Hz, 1H), 2.03-1.91 (m, 2H), 1.84 (m, 1H), 1.60-1.53 (m, 2H), 1.52 (s, 3H), 1.36 (m, 2H), 1.11-0.98 (m, 2H).

reactant | 1-bromo-4-iodobenzene | 10.9 mmol, 3.07 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | Methyl trans-4-acetylcyclohexanecarboxylate | 5.43 mmol, 1.00 g | C(C)(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C10H16O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | methyl trans-4-[1-(4-bromophenyl)-1-hydroxyethyl]cyclohexanecarboxylate | BrC1=CC=C(C=C1)C(C)(O)[C@@H]1CC[C@H](CC1)C(=O)OC | C16H21BrO3
